US07087599B2
A solution of (2RS,9aSR)-9a-butyl-7-hydroxy-4-methyl-2-(2-oxo-ethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one (17 mg, 0.05 mmol) in 2-propanol (2 mL) was treated with NaBH4 (1.9 mg, 0.05 mmol) and the mixture was stirred at room temperature for 40 minutes. The solvent was evaporated under vacuum. The residue was taken up in EtOAc (60 mL), washed with 0.2N HCl (30 mL), 5% NaHCO3, and brine, dried over MgSO4, filtered, and concentrated under vacuum to a gum (24 mg). This material was purified by PLC on a 0.1×20×20 cm silica gel GF plate using 2:1 hexanes-EtOAc as developing solvent. The UV visible band at Rf 0.06-0.11 afforded (2RS,9aSR)-9a-butyl-7-hydroxy-2-(2-hydroxyethyl)-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an oil.

reactant | (2RS,9aSR)-9a-butyl-7-hydroxy-4-methyl-2-(2-oxo-ethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.05 mmol, 17 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)CC=O)=O)C)O | C20H24O3
reactant | NaBH4 | 0.05 mmol, 1.9 mg | [BH4-].[Na+]
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | (2RS,9aSR)-9a-butyl-7-hydroxy-2-(2-hydroxyethyl)-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)CCO)=O)C)O | C20H26O3
